US09034866B2
Synthesis of Methyl 10-bromo-9-fluoro-3-((5-fluoro-2-methoxypyridin-3-yl)(hydroxy)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate
Methyl 10-bromo-9-fluoro-3-((5-fluoro-2-methoxypyridin-3-yl)(hydroxy)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was prepared similarly according to the procedure in Example 9. Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate was reacted with 5-fluoro-2-methoxy-pyridine-3-carbaldehyde to afford 196 mg (68% yield) of the title compound.

reactant | Methyl 10-bromo-9-fluoro-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | BrC=1C(=CC2=C(C=3N(C4CC2C4)C=C(N3)C(=O)OC)C1)F | C15H12BrFN2O2
reactant | 5-fluoro-2-methoxy-pyridine-3-carbaldehyde | FC=1C=C(C(=NC1)OC)C=O | C7H6FNO2
product | Methyl 10-bromo-9-fluoro-3-((5-fluoro-2-methoxypyridin-3-yl)(hydroxy)methyl)-6,7-dihydro-5H-5,7-methanobenzo[c]imidazo[1,2-a]azepine-2-carboxylate | 196 mg, 68% yield | BrC=1C(=CC2=C(C=3N(C4CC2C4)C(=C(N3)C(=O)OC)C(O)C=3C(=NC=C(C3)F)OC)C1)F | C22H18BrF2N3O4
